US08748624B2
STEP B: ethyl 3-(5-(5-chloro-2-(((3′,4′-difluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (116 mg, 0.55 mmol) was added to a DCM solution (1 mL) of ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate (95 mg, 0.27 mmol), 3′,4′-difluoro-[1,1′-biphenyl]-4-amine (73 mg, 0.36 mmol), and 1 drop of AcOH and the resulting mixture was stirred at room temperature. After 3 h the resulting mixture diluted with DCM and saturated aqueous NaHCO3 and the layers were separated. The organic phase was washed with brine, dried (Na2SO4), concentrated and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 0.55 mmol, 116 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | ethyl 3-(5-(5-chloro-2-formylphenyl)picolinamido)propanoate | 0.27 mmol, 95 mg | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)C=O | C18H17ClN2O4
reactant | 3′,4′-difluoro-[1,1′-biphenyl]-4-amine | 0.36 mmol, 73 mg | FC=1C=C(C=CC1F)C1=CC=C(C=C1)N | C12H9F2N
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-(5-(5-chloro-2-(((3′,4′-difluoro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | ClC=1C=CC(=C(C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OCC)CNC1=CC=C(C=C1)C1=CC(=C(C=C1)F)F | C30H26ClF2N3O3
